Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
___: 
1. Exploration left facial nerve (microvascular,
    neuroplasty of all branches in middle third of face).
2. Insertion nerve conduits x3.
3. Decompression left infraorbital nerve.
4. Repair of facial muscles (zygomaticus minor).
5. Repair cheek laceration, complex ___ cm.
6. Repair of forehead laceration, simple 4.0 cm.

 
History of Present Illness:
Patient is a ___ with a PMHx of alcohol use and depression who 
was transferred from ___ after a fall from a chair, 
with facial lacerations and multiple fractures. Pt is heavy 
alcohol abuser, drinking ___ beers per day. He was at home on 
___ when his wife found him bleeding from his face. A chair 
in the living room was turned over and there was a pool of blood 
next to a table. Pt currently states that he has no recollection 
of the event, but since the event he has endorsed falling. He 
denies self-inflicted injury, though there had been high concern 
given unclear etiology of his trauma. He presented to ___ 
___  where he was found to have L face scalp laceration, L 
humerus fracture, R fibula avulsion, and a chest hematoma. 
 
At the OSH, CT head and spine were negative. He was found to 
have L humerus fracture and was tx to ___ for further 
evaluation.  

On presentation a CT A/P at ___ ED showed small abdominal and 
pelvic ascites as well as nodular hepatic contour, possibly 
consistent with cirrhosis. Varices were noted. No splenomegaly  
 
He has ___ drinks per day per his family and his last drink 
was 7pm on ___ has had several falls with injury in the last 
6 months. He has not had any hospitalizations for these. Per his 
family, pt has had multiple detoxes in the past and never 
required inpatient level care. He never has had DTs or seizures 
and never needed to spend time in an ICU. 

He was admitted to trauma and The patient's traumatic injuries 
were
deemed to not require operative management, and plastic surgery
was consulted for management of his facial laceration (he
underwent washout on ___ and closure on ___.  He is 
being transferred to medicine for further workup and management 
of possible new cirrhosis. 
 
Past Medical History:
Pt has not seen a doctor in many (___) years per family. He 
does not take any home medications. 
Report of hx of:
depression  
alcohol abuse 
 
Social History:
___
Family History:
No family history of GI diseases
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.6 75 119/62 16 96%RA
GEN: No acute distress
HEENT: L scalp laceration and hematoma. L facial laceration
extending from nasal bridge to cheek. EOMI and PEERL b/l.
Anicteric sclerae. MMM.
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R. Chest nontender to
palpation. L upper back ecchymosis. Non-tender. No bony
deformity. 
ABD: Soft, distended, nontender, no rebound or guarding,
normoactive bowel sounds, no organomegaly
Back: nontender to palpation on spinal processes
Ext: ___ edema R>L. Rt ___ toe tender to palpation w/ecchymosis. 
L
humerus tender with gross deformity, in sling with 2+ distal
pulses. B/l hand tremor. Ecchymosis of L knee. Non-tender. No
gross deformity. 
Neuro: A&Ox3. CN ___ intact. Intact strength, ROM, and 
sensation
in extremities (testing of left arm deferred ___ injury)

Discharge Physical Exam:
VS:  Tm:97.4 BP: 130/65 P: 91  RR: 18  O2: >97%RA
GENERAL: NAD, alert, interactive  
HEENT: 5cm laceration on left forehead with no edema or 
erythema. 10cm laceration left lower face, no edema, mild 
erythema surrounding the wound, non-fluctuant, non-painful 
LUNGS: LCTAB  
HEART:  Distant heart sounds, RRR, no murmurs, normal S1 and S2
ABDOMEN: Protuberant, soft, non-tender. Dullness to percussion 
b/l flanks.  
EXTREMITIES: 1+ pitting edema of LEs to knees, edema R>L foot. 
B/l circumferential skin rash from ankle to knees, erythematous 
discrete  macula w/ some excoriation.  
NEURO: awake, A&Ox3 (Name, ___, Hospital in ___. 
Fine postural . No asterixis. Fine tremor at rest that worsens 
with action. 

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 04:30AM BLOOD WBC-10.2* RBC-3.49* Hgb-11.9* Hct-36.4* 
MCV-104* MCH-34.1* MCHC-32.7 RDW-13.8 RDWSD-52.1* Plt ___
___ 04:30AM BLOOD Neuts-78.9* Lymphs-7.5* Monos-12.0 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-8.06* AbsLymp-0.76* 
AbsMono-1.22* AbsEos-0.05 AbsBaso-0.05
___ 04:30AM BLOOD ___ PTT-35.6 ___
___ 04:30AM BLOOD Glucose-114* UreaN-6 Creat-0.7 Na-127* 
K-4.8 Cl-95* HCO3-21* AnGap-16
___ 04:30AM BLOOD ALT-47* AST-170* AlkPhos-179* 
TotBili-3.0*
___ 04:30AM BLOOD Lipase-51
___ 04:30AM BLOOD cTropnT-<0.01
___ 02:45PM BLOOD cTropnT-<0.01

===============
PERTINENT LABS:
===============
Vitamin D:
___ 04:05AM BLOOD 25VitD-21*
Anemia work up:
___ 04:45AM BLOOD calTIBC-233* VitB12-1190* Ferritn-213 
TRF-179*

LFT trend:
___ 02:47PM BLOOD ALT-33 AST-112* AlkPhos-139* TotBili-2.9*
___ 04:45AM BLOOD ALT-34 AST-121* AlkPhos-150* TotBili-3.5*
___ 04:05AM BLOOD ALT-36 AST-117* LD(___)-302* AlkPhos-156* 
TotBili-3.4*
___ 05:45AM BLOOD ALT-35 AST-106* AlkPhos-150* TotBili-2.9*
___ 05:15AM BLOOD ALT-39 AST-99* LD(LDH)-291* AlkPhos-143* 
TotBili-2.8*
___ 06:10AM BLOOD ALT-38 AST-88* LD(LDH)-275* AlkPhos-130 
TotBili-2.6*

Cirrhosis workup:
___ 04:45AM BLOOD ___
___ 04:45AM BLOOD AMA-NEGATIVE Smooth-POSITIVE *
___ 04:45AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE

===============
DISCHARGE LABS:
===============
___ 06:10AM BLOOD WBC-6.7 RBC-2.91* Hgb-10.1* Hct-31.5* 
MCV-108* MCH-34.7* MCHC-32.1 RDW-14.2 RDWSD-55.9* Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-122* UreaN-9 Creat-0.7 Na-134 
K-4.1 Cl-102 HCO3-27 AnGap-9
___ 06:10AM BLOOD ALT-38 AST-88* LD(LDH)-275* AlkPhos-130 
TotBili-2.6*
___ 06:10AM BLOOD Calcium-7.8* Phos-2.2* Mg-2.3

====================
STUDIES AND IMAGING:
====================
___ dx ankle and foot: 
IMPRESSION:    
1. Osteopenia and fibular avulsion fracture 
2.  Fracture at the base of the ___ toe proximal phalanx may be 
subacute, 
correlate with clinical examination findings. 

___ CT abd/chest/pelvis
IMPRESSION:  
  
1.  No evidence of retroperitoneal hematoma. 
2.  Likely left chest wall hematoma. 
3.  Small abdominal and pelvic ascites. 
4.  Nodular hepatic contour may be consistent with cirrhosis in 
the 
appropriate clinical context. 
5.  Vague retroperitoneal fat stranding, may be chronic, though 
acute 
traumatic abnormality is not entirely excluded.  Follow-up can 
be considered 
after the resolution of acute symptoms. 

___ unilateral ___ veins:
IMPRESSION:    
No evidence of deep venous thrombosis in the right lower 
extremity veins. 

___ Shoulder xray:
IMPRESSION:    
Left proximal humeral fracture. 

___ US liver
FINDINGS:  
  
Liver:  The hepatic parenchyma is coarsened and diffusely 
echogenic.  Nofocal 
liver lesions are identified.  There is trace perihepatic 
ascites. 
Bile ducts:  There is no intrahepatic biliary ductal dilation.  
The common 
hepatic duct measures 4 mm. 
Gallbladder:  The gallbladder appears within normal limits, 
without stones or 
abnormal wall thickening or edema. 
Pancreas:  Imaged portion of the pancreas appears within normal 
limits, with 
portions of the pancreatic tail obscured by overlying bowel gas. 

Spleen:  The spleen demonstrates normal echotexture, and 
measures 12.2 cm. 
Kidneys:  The right kidney measures 10.2 cm.  The left kidney 
measures 11.7 
cm.  No stones, masses or hydronephrosis are identified in 
either kidney. 
  
Doppler evaluation: The main portal vein is patent, with flow in 
the 
appropriate direction. Main portal vein velocity is 12.8 cm/sec. 

Right and left portal veins are patent, with antegrade flow. The 
main hepatic 
artery is patent, with appropriate waveform. Right, middle and 
left hepatic 
veins are patent, with appropriate waveforms. Splenic vein and 
superior 
mesenteric vein are patent, with antegrade flow. 
  
IMPRESSION:  
1. Patent hepatic vasculature. 
2. Cirrhotic liver. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo male with hx of alcohol abuse who has not 
had outpatient follow up in several years who presented to ___ 
from OSH after having unwhitnessed fall c/b facial lacerations 
and humeral fracture and was found to have new diagnosis of 
decompensated cirrhosis. 

# Fall: Pt found by wife covered in own blood after unwitnessed 
fall at home. Unclear etiology of fall. Some concern initially 
for self inflicted wounds. He was intitially placed on ___ with 1:1 sitter. Was then seen by social work and psych and 
found to not have current thoughts of self harm and sitter was 
DCed. Pt had no SI or HI during his admission. Fall happened 
while patient was intoxicated. 

# Facial lacerations: Found to have large facial lacerations. He 
was seen by our plastics service. Lacerations were irrigated on 
___ and closed on ___. He will follow up with plastic 
surgery in the outpatient setting. 

# Humeral fracture: Pt with distal humeral fracture. Seen by 
trauma and orthopedics and no indication for surgery. He was put 
in a sling and should remain non-weight bearing on arm. He will 
follow up with orthopedics.  

# Decompensated alcoholic cirrhosis: On admission he had labs 
with elevated serum transaminases and CT abdomen with a nodular 
liver. Pt underwent a RUQ ultrasound which showed patent 
vasculature but cirrhotic liver. After intital surgical 
management, he was transferred to medicine for further workup of 
new cirrhosis. Hepatology was consulted on the case. A 
infectious and autoimmune workup of his cirrhosis was negative. 
It is thought that his cirrhosis is ___ alcohol abuse. There was 
some concern that his uptrending LFTs could represent alcoholic 
hepatitis. His MDF peaked at 40 during the hospitalization, 
though steroids were not initially started ___ to ongoing 
infectious workup. Given downtrending LFTs and difficulty 
distinguishing acute decompensated cirrhosis from cirrhosis with 
alcoholic hepatitis, no steroids were initiated. Pt was 
instructed on the importance of abstaining from alcohol and 
expressed a desire to quit. Pt should follow up with hepatology, 
plastics, and orthopedics. He should also be established with a 
PCP when being discharged from rehab. 

# Alcohol abuse w/acute alcohol withdrawal: Pt has long standing 
history of alcohol abuse. Per family, he drinks ___ beers per 
day. He has had attempts at abstaining over the last few years 
and no history of DTs, seizures, or hospitalization for 
withdrawal. He was placed on a CIWA protocol with PRN diazepam 
for management of withdrawal symptoms. He did not require PRN 
diazepam for >48hrs prior to discharge. Pt reports a willingness 
to stop drinking, though does not have a specific plan about how 
he will go about it. Given his cirrhosis and concern for 
alcoholic hepatitis, pt was advised about the dangers of 
continued use and that ongoing use of alcohol can make him 
confused, ill, and can potentially lead to death. Pt was given 
IV thiamine for three days on admission and continued on oral 
thiamine, multivitamin, and folate.

# Hepatic encephalopathy: Pt presented with confusion and 
asterixis in the setting of worsening liver function, c/w 
hepatic encephalopathy. He was put on a regimen of lactulose and 
rifaximin, with improvement in his mental status towards his 
baseline (per family). Pt should continue his lactulose with 
goal of ___ loose bowel movements daily and continue his 
rifaximin to prevent encephalopathy.   

# Macrocytic Anemia: Pt with macrocytic anemia on admission 
without known baseline. B12 level normal. Folate being repleted. 
Likely due to alcohol use. 

# Vitamin D deficiency: Patient vitamin D deficient with level 
measured at 21. He was started on daily vitamin D 
supplementation. 

# Rash: B/l Circumferential erythematous macular rash w/ some 
excoriation from ankles to shins. Originally thought to be a 
contact dermatitis, but found out from family that rash is long 
standing. Improving and assymtomatic at discharge. Please follow 
up. 

Transitional Issues:
- Please set up patient with PCP appointment on discharge as he 
has not followed up in primary care in many years. Patient needs 
age appropriate cancer screening. 
- Pt will need screening EGD for varices and HCC screening in 
hepatology follow up
- Left arm is non-weight bearing. Patient be careful of moving 
left arm as it is very painful with movement.
- Patient needs hepatitis B vaccine as he was tested while 
inpatient and not immune. Also needs testing or vaccine for 
hepatitis A
- Patient received influenza vaccine while inpatient
- Please ensure patient has hepatology follow up prior to 
discharge
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN Pain 
Do Not exceed 2G per day 
2. FoLIC Acid 1 mg PO DAILY 
3. Lactulose 30 mL PO TID 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Nicotine Patch 21 mg TD DAILY 
6. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN Severe pain 
7. Rifaximin 550 mg PO BID 
8. Thiamine 100 mg PO DAILY 
9. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Facial laceration, humeral fracture

Secondary:
Cirrhosis, alcohol withdrawal, alcohol abuse 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after you had a fall at home. You 
were found to have deep cuts on your face which were washed and 
closed by our plastic surgery department. You were also found to 
have a break in the bone of your left arm. Because the bone is 
set, this did not require an operation to fix. It is important 
to not put any weight on the bone until you visit with the 
orthopedists. You will also follow up with plastic surgery.

During this admission we found that your liver has been damaged 
and that you have scarring of your liver, which we call 
cirrhosis. This is likely due to the alcohol that you drink. It 
is really important that you stop drinking, as it can cause 
further damage to your liver. If you continue to drink we are 
concerned that your liver will fail which can result in 
confusion, bleeding, severe infection, and even death. 

Because of your cirrhosis, it is really important that you 
follow up with a liver doctor (___). A liver doctor can 
evaluate for how well your liver is doing and look to see if 
there is anything that can be done to prevent complications. 
Please call your doctor if you become confused, which is often 
an early sign that your liver is not working well. 

Thank you for allowing us to be a part of your care. 

Sincerely, 

Your ___ team
 
Followup Instructions:
___